US04973599
2-[(3-Chloro-6-nitrophenyl)thio]-1-methyl-1H-imidazole
To a solution of 10 g (87.7 mmoles) of 2-mercapto-1-methylimidazole in 300 ml of ethanol was added 10.4 g (193 mmoles) of sodium methoxide followed by 20.8 g (92.1 mmoles) of 1-chloro-3,4-dinitrobenzene. The mixture was stirred and refluxed for 8 hours. An additional 3 g of sodium methoxide was added and refluxing was continued for 5 more hours. The mixture was filtered hot and the filtrates concentrated in vacuo. The residue was partitioned between dichloromethane and water. The organics were dried and concentrated. The residue was recrystallized from dichloromethane and methanol to give 12.5 g (53%) of the product as yellow prisms, mp 130°-131° C.

reactant | 2-mercapto-1-methylimidazole | 87.7 mmoles, 10 g | SC=1N(C=CN1)C | C4H6N2S
reactant | sodium methoxide | 193 mmoles, 10.4 g | C[O-].[Na+]
reactant | 1-chloro-3,4-dinitrobenzene | 92.1 mmoles, 20.8 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium methoxide | 3 g | C[O-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[(3-Chloro-6-nitrophenyl)thio]-1-methyl-1H-imidazole | 12.5 g, 53% | ClC=1C=C(C(=CC1)[N+](=O)[O-])SC=1N(C=CN1)C | C10H8ClN3O2S
